US06589970B2
Sodium borohydride (0.19 g, 5 mmol) was added in portions under nitrogen to a solution of benzyl-(6-methoxy-naphthalen-2-ylmethylene)-amine (1.38 g, 5 mmol), prepared in the previous step, in 150 mL of absolute ethanol at room temperature. After the addition the reaction was stirred at room temperature for 20 h (overnight). The reaction was quenched with 30 mL of 1N HCl (pH 2 by litmus paper). The solvent was removed under reduced pressure to give a solid. The solid was partitioned between methylene chloride and water. The aqueous layer was made basic with 1N NaOH. The aqueous layer was separated and extracted two times with methylene chloride. The organic extracts were combined, dried (MgSO4) and the solvent removed under reduced pressure to give benzyl-(6-methoxy-naphthalen-2-ylmethyl)-amine (1.38 g, 100%) as an off-white solid, mp 45-53° C.

reactant | Sodium borohydride | 5 mmol, 0.19 g | [BH4-].[Na+]
reactant | benzyl-(6-methoxy-naphthalen-2-ylmethylene)-amine | 5 mmol, 1.38 g | C(C1=CC=CC=C1)N=CC1=CC2=CC=C(C=C2C=C1)OC | C19H17NO
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | benzyl-(6-methoxy-naphthalen-2-ylmethyl)-amine | 1.38 g, 100% | C(C1=CC=CC=C1)NCC1=CC2=CC=C(C=C2C=C1)OC | C19H19NO
